US07842688B2
d) tert-Butyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 1.180 g of tert-butyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate and 1.016 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a colourless oil. Rf=0.20 (3:1 EtOAc-heptane); Rt=5.12.

reactant | tert-butyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate | 1.180 g | OC1CN(CCC1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H25NO5
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 1.016 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | tert-Butyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | COC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C31H40N2O8
